US05610293
E. Synthesis of [Manganese(II)dichloro(2-(2Methylpropyl)-1,4,7,10,13-pentaazacyclopentadecane)]
A solution of 2-(2-methylpropyl)-1,4,7,10,13-pentaazacyclopentadecane prepared as in Example 5D (0.66 g, 2.4 mmole) and anhydrous manganese(II) chloride (0.31 g, 2.4 mmole) in anhydrous methanol (40 ml) was refluxed under a dry nitrogen atmosphere overnight. The solution was filtered and the solvent removed in vacuo. The resulting yellow solid was recrystallized from THF-ethyl ether to give 0.46 g (48% yield) of the product as an off-white solid: FAB mass spectrum (NBA) m/z (relative intensity) 396 (M+, 1), 361/363 [(M-Cl)+ 84/26], 272 [(M-MnCl2 +H)+ 100]. Anal. Calcd. for C14H33Cl2MnN5 : C, 42.33; H, 8.37; N, 17.63. Found: C, 41.90; H, 8.22; N, 17.30.

reactant | 2-(2-methylpropyl)-1,4,7,10,13-pentaazacyclopentadecane | CC(CC1NCCNCCNCCNCCNC1)C | C14H33N5
reactant | manganese(II) chloride | 2.4 mmole, 0.31 g | [Cl-].[Mn+2].[Cl-]
solvent | methanol | 40 ml | CO | CH4O
product | Manganese(II)dichloro(2-(2Methylpropyl)-1,4,7,10,13-pentaazacyclopentadecane) | 0.46 g, 48% yield | ClC1(N(CCNCCNCCNCCNC1)Cl)CC(C)C.[Mn+2] | InChI=1S/C14H31Cl2N5.Mn/c1-13(2)11-14(15)12-20-8-7-18-4-3-17-5-6-19-9-10-21(14)16;/h13,17-20H,3-12H2,1-2H3;/q;+2
